US04782050
1. 2-methyl-1H-imidazo[4,5-c]pyridine
A mixture of 5 g of 3,4-diaminopyridine, 3.9 ml of acetic acid and 50 ml of polyphosphoric acid was heated to 125° C. for 2 hours. The reaction mixture was poured into water and the pH adjusted to 8 with ammonium hydroxide. The product was extracted with methanol-chloroform (1:1) and the extracts dried over sodium sulfate and concentrated to dryness. Extraction of the residue with 50 ml of hot ethanol gave 3.98 g of product.

reactant | 3,4-diaminopyridine | 5 g | NC=1C=NC=CC1N | C5H7N3
reactant | acetic acid | 3.9 ml | C(C)(=O)O | C2H4O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 2-methyl-1H-imidazo[4,5-c]pyridine | 3.98 g | CC=1NC2=C(C=NC=C2)N1 | C7H7N3
